US07863302B2
6-Bromo-1-(2-dimethylamino-ethyl)-1H-indole-3-carboxylic acid methyl ester
A mixture of 6-bromo-1H-indole-3-carboxylic acid methyl ester (500 mg, 1.97 mmol), sodium hydride (60% in mineral oil, 748 mg, 31.2 mmol), sodium iodide (295 mg, 1.96 mmol), 2-dimethylaminoethyl chloride hydrochloride (341 mg, 2.37 mmol) and DMF (60 mL) is heated at 100° C. for 8 hours. The reaction mixture is cooled, filtered, and the solids are washed with water and air dried. The solids are dissolved in MeOH (200 mL) and (trimethylsilyl)diazomethane (2.0 M solution in hexanes, 20 mL) is added over several minutes. The reaction mixture is stirred for one hour and concentrated under reduced pressure. The residue is partitioned between water and ethyl acetate. The ethyl acetate layer is separated and dried over MgSO4. The crude product is purified via radial chromatography using 2.5% MeOH/CH2Cl2 to afford the title compound (195 mg, 30%). ES/MS m/e 327.0 (M+2).

reactant | 6-bromo-1H-indole-3-carboxylic acid methyl ester | 1.97 mmol, 500 mg | COC(=O)C1=CNC2=CC(=CC=C12)Br | C10H8BrNO2
reactant | sodium hydride | 31.2 mmol, 748 mg | [H-].[Na+]
reactant | sodium iodide | 1.96 mmol, 295 mg | [I-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 2.37 mmol, 341 mg | Cl.CN(CCCl)C
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-1-(2-dimethylamino-ethyl)-1H-indole-3-carboxylic acid methyl ester | 195 mg, 30% | COC(=O)C1=CN(C2=CC(=CC=C12)Br)CCN(C)C | C14H17BrN2O2
